US05583130
Step B: 4-Methyl-2'-(1H-imidazol-4-yl)-1,1'-biphenyl
A vigorously stirred solution of 1.0 g (3.5 mmol) of 4-methyl-2'-bromoacetyl-1,1'-biphenyl and 1.86 g of formamidine acetate in 10 mL of formamide was heated at 150° C. for 6 hours. The reaction mixture was cooled, poured into 100 mL of water and the resultant mixture extracted several times with ether. The combined extracts were washed with water (3×), dried over magnesium sulfate, filtered and evaporated under vacuum. The residue was purified by chromatography over silica gel, eluting with hexane/ethyl acetate (1:1) to yield 200 mg (0.86 mmol, 24%) of the product. FAB-MS (Li spike): calculated for C16H14N2 234; found 241 (M+Li). 1H NMR (200 MHz, CDCl3); 2.34 (s, 3H), 6.61 (s, 1H), 7.10 (m, 4H), 7.30 (m, 3H), 7.48 (s, 1H), 7.68 (dd, 1H).

reactant | 4-methyl-2'-bromoacetyl-1,1'-biphenyl | 3.5 mmol, 1.0 g | CC1=CC=C(C=C1)C1=C(C=CC=C1)C(CBr)=O | C15H13BrO
reactant | formamidine acetate | 1.86 g | C(C)(=O)O.C(=N)N
reactant | water | 100 mL | O | H2O
solvent | formamide | 10 mL | C(=O)N | CH3NO
product | 4-Methyl-2'-(1H-imidazol-4-yl)-1,1'-biphenyl | 0.86 mmol, 200 mg, 24% | CC1=CC=C(C=C1)C1=C(C=CC=C1)C=1N=CNC1 | C16H14N2
